### PR TITLE
[Merged by Bors] - feat: `insert b (Ico a b) = Ico a (b + 1)`

### PR DESCRIPTION
**Pull request by YaelDillies**
and similar lemmas. Copied over from `Order.Interval.Finset.Nat`.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Order/Interval/Finset/SuccPred.lean [hunk 1]
```diff
@@ -38,6 +38,12 @@ variable [LocallyFiniteOrder α]
 section SuccOrder
 variable [SuccOrder α] {a b : α}
 
+/-!
+#### Not `NoMaxOrder`
```
[the remark this answers is not in the document]
Comment (YaelDillies) [reply Mathlib/Order/Interval/Finset/SuccPred.lean:42]: The point of this header is mostly to make it easier for people like me to keep the four files in sync: It's surprisingly hard!

[the remark this answers is not in the document]
Comment (b-mehta) [reply Mathlib/Order/Interval/Finset/SuccPred.lean:42]: I'd think you can do that with a header that doesn't also confuse readers!

[the remark this answers is not in the document]
Comment (YaelDillies) [reply Mathlib/Order/Interval/Finset/SuccPred.lean]: Better now?

[the remark this answers is not in the document]
Comment (b-mehta) [reply Mathlib/Order/Interval/Finset/SuccPred.lean]: Much better now!

**Review by b-mehta — APPROVED** [review]

File: Mathlib/Algebra/Order/Interval/Set/SuccPred.lean [hunk 2]
```diff
@@ -73,11 +94,22 @@ lemma Ioo_add_one_right_eq_Ioc (a b : α) : Ioo a (b + 1) = Ioc a b := by
...
+
 end SuccAddOrder
 
 section PredSubOrder
 variable [Sub α] [PredSubOrder α] {a b : α}
 
+/-!
+#### Not `NoMinOrder`
+
+##### Comparing different intervals
```
[the remark this answers is not in the document]
Comment (YaelDillies) [reply Mathlib/Algebra/Order/Interval/Set/SuccPred.lean]: I like that

File: Mathlib/Algebra/Order/Interval/Finset/SuccPred.lean [hunk 3]
```diff
@@ -76,11 +97,22 @@ lemma Ioo_add_one_right_eq_Ioc (a b : α) : Ioo a (b + 1) = Ioc a b := by
...
+lemma insert_Ico_right_eq_Ico_add_one_right (h : a ≤ b) : insert b (Ico a b) = Ico a (b + 1) := by
+  simpa [succ_eq_add_one] using insert_Ico_right_eq_Ico_succ_right h
+
 end SuccAddOrder
 
 section PredSubOrder
 variable [Sub α] [PredSubOrder α] {a b : α}
 
+/-!
+#### Not `NoMinOrder`
```
Comment (b-mehta) [inline Mathlib/Algebra/Order/Interval/Finset/SuccPred.lean:111]:
```suggestion
#### Orders possibly with minimal elements
```

File: Mathlib/Algebra/Order/Interval/Finset/SuccPred.lean [hunk 4]
```diff
@@ -97,13 +129,28 @@ lemma Ioc_sub_one_sub_one_eq_Ico_of_not_isMin (ha : ¬ IsMin a) (b : α) :
...
 
+lemma insert_Ioc_left_eq_Ioc_sub_one_left_of_not_isMin (h : a ≤ b) (ha : ¬ IsMin a) :
+    insert a (Ioc a b) = Ioc (a - 1) b := by
+  simpa [pred_eq_sub_one] using insert_Ioc_left_eq_Ioc_pred_left_of_not_isMin h ha
+
+lemma insert_Ioc_sub_one_right_eq_Ioc (h : a < b) : insert b (Ioc a (b - 1)) = Ioc a b := by
+  simpa [pred_eq_sub_one] using insert_Ioc_pred_right_eq_Ioc h
+
+/-!
+#### `NoMinOrder`
```
Comment (b-mehta) [inline Mathlib/Algebra/Order/Interval/Finset/SuccPred.lean:149]:
```suggestion
#### Orders with no minimal elements
```

File: Mathlib/Algebra/Order/Interval/Set/SuccPred.lean [hunk 5]
```diff
@@ -73,11 +94,22 @@ lemma Ioo_add_one_right_eq_Ioc (a b : α) : Ioo a (b + 1) = Ioc a b := by
...
+lemma insert_Ico_right_eq_Ico_add_one_right (h : a ≤ b) : insert b (Ico a b) = Ico a (b + 1) := by
+  simpa [succ_eq_add_one] using insert_Ico_right_eq_Ico_succ_right h
+
 end SuccAddOrder
 
 section PredSubOrder
 variable [Sub α] [PredSubOrder α] {a b : α}
 
+/-!
+#### Not `NoMinOrder`
```
Comment (b-mehta) [inline Mathlib/Algebra/Order/Interval/Set/SuccPred.lean:108]: as before

File: Mathlib/Algebra/Order/Interval/Set/SuccPred.lean [hunk 6]
```diff
@@ -94,13 +126,28 @@ lemma Ioc_sub_one_sub_one_eq_Ico_of_not_isMin (ha : ¬ IsMin a) (b : α) :
...
 
+lemma insert_Ioc_left_eq_Ioc_sub_one_left_of_not_isMin (h : a ≤ b) (ha : ¬ IsMin a) :
+    insert a (Ioc a b) = Ioc (a - 1) b := by
+  simpa [pred_eq_sub_one] using insert_Ioc_left_eq_Ioc_pred_left_of_not_isMin h ha
+
+lemma insert_Ioc_sub_one_right_eq_Ioc (h : a < b) : insert b (Ioc a (b - 1)) = Ioc a b := by
+  simpa [pred_eq_sub_one] using insert_Ioc_pred_right_eq_Ioc h
+
+/-!
+#### `NoMinOrder`
```
Comment (b-mehta) [inline Mathlib/Algebra/Order/Interval/Set/SuccPred.lean:146]: as before

File: Mathlib/Order/Interval/Finset/SuccPred.lean [hunk 7]
```diff
@@ -54,24 +60,50 @@ lemma Ico_succ_succ_eq_Ioc_of_not_isMax (hb : ¬ IsMax b) (a : α) :
...
+lemma insert_Ico_right_eq_Ico_succ_right (h : a ≤ b) : insert b (Ico a b) = Ico a (succ b) :=
+  coe_injective <| by simpa using Set.insert_Ico_right_eq_Ico_succ_right h
+
 end SuccOrder
 
 section PredOrder
 variable [PredOrder α] {a b : α}
 
+/-!
+#### Not `NoMinOrder`
```
Comment (b-mehta) [inline Mathlib/Order/Interval/Finset/SuccPred.lean:102]: as before

File: Mathlib/Order/Interval/Finset/SuccPred.lean [hunk 8]
```diff
@@ -88,19 +120,39 @@ lemma Ioc_pred_pred_eq_Ico_of_not_isMin (ha : ¬ IsMin a) (b : α) :
...
 
+lemma insert_Ioc_left_eq_Ioc_pred_left_of_not_isMin (h : a ≤ b) (ha : ¬ IsMin a) :
+    insert a (Ioc a b) = Ioc (pred a) b :=
+  coe_injective <| by simpa using Set.insert_Ioc_left_eq_Ioc_pred_left_of_not_isMin h ha
+
+lemma insert_Ioc_pred_right_eq_Ioc (h : a < b) : insert b (Ioc a (pred b)) = Ioc a b :=
+  coe_injective <| by simpa using Set.insert_Ioc_pred_right_eq_Ioc h
+
+/-!
+#### `NoMinOrder`
```
Comment (b-mehta) [inline Mathlib/Order/Interval/Finset/SuccPred.lean:139]: as before

File: Mathlib/Order/Interval/Set/SuccPred.lean [hunk 9]
```diff
@@ -75,11 +96,22 @@ lemma Ioo_succ_right_eq_Ioc (a b : α) : Ioo a (succ b) = Ioc a b :=
...
+lemma insert_Ico_right_eq_Ico_succ_right (h : a ≤ b) : insert b (Ico a b) = Ico a (succ b) :=
+  insert_Ico_right_eq_Ico_succ_right_of_not_isMax h (not_isMax _)
+
 end SuccOrder
 
 section PredOrder
 variable [PredOrder α] {a b : α}
 
+/-!
+#### Not `NoMinOrder`
```
Comment (b-mehta) [inline Mathlib/Order/Interval/Set/SuccPred.lean:110]: as before

File: Mathlib/Order/Interval/Set/SuccPred.lean [hunk 10]
```diff
@@ -99,13 +131,28 @@ lemma Ioc_pred_pred_eq_Ico_of_not_isMin (ha : ¬ IsMin a) (b : α) :
...
 
+lemma insert_Ioc_left_eq_Ioc_pred_left_of_not_isMin (h : a ≤ b) (ha : ¬ IsMin a) :
+    insert a (Ioc a b) = Ioc (pred a) b := by
+  rw [Ioc_pred_left_of_not_isMin ha, Ioc_insert_left h]
+
+lemma insert_Ioc_pred_right_eq_Ioc (h : a < b) : insert b (Ioc a (pred b)) = Ioc a b := by
+  rw [Ioc_pred_right_of_not_isMin h.not_isMin, Ioo_insert_right h]
+
+/-!
+#### `NoMinOrder`
```
Comment (b-mehta) [inline Mathlib/Order/Interval/Set/SuccPred.lean:151]: as before

**Review by b-mehta — APPROVED** [review]
bors d+

**Comment by YaelDillies** [comment]
bors merge
